***********************************************************
*
* RB520S30
*
* Nexperia
*
* 200 mA low VF MEGA Schottky barrier rectifiers
* IFmax = 200mA (average)
* VRmax = 30V
* VFmax = 600mV   @ IF = 200mA
* IRmax = 1µA     @ VR = 10V
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD523
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE3
*
***********************************************************
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
.SUBCKT RB520S30 1 2
D1 1 2 RB520S30
R1 1 2 1.26E+8
*
.MODEL RB520S30 D
+ IS = 7.409E-8
+ N = 1.01
+ BV = 44
+ IBV = 0.001
+ RS = 0.6919
+ CJO = 2.402E-11
+ VJ = 0.3356
+ M = 0.4335
+ FC = 0.5
+ EG = 0.69
+ XTI = 2
.ENDS
*
