* ======================================================================
* 1970s Rotary Telephone – Behavioral Line Model
* Exposed Pins:
*   TIP, RING          — external 2-wire loop
*   HOOK               — logic input: 1 = off-hook, 0 = on-hook
*   MIC_IN             — inject microphone audio (e.g., from AC source)
*   SPKR_OUT           — observe receive audio (do not drive)
*   GND                — reference for MIC_IN and SPKR_OUT only
*   RINGDET            — goes high when 90Vrms @ 20Hz is detected
*
* NOTE: This is electrically isolated from GND; loop feed must be applied
*       across TIP/RING.
* ======================================================================

.subckt ROTARY_PHONE TIP RING HOOK MIC_IN SPKR_OUT GND RINGDET

* --------------------------------------------------------------
* Hook switch model (opens loop when on-hook)
* --------------------------------------------------------------
.model HOOKSW SW(Ron=10 Roff=1e7 Vt=0.5 Vh=0)
S_HOOK_TIP TIP_H TIP HOOK GND HOOKSW
S_HOOK_RING RING_H RING HOOK GND HOOKSW

* --------------------------------------------------------------
* DC loop current + hybrid impedance (~600 Ω total)
* --------------------------------------------------------------
R_LOOP1 TIP_H   NLOOP   300
R_LOOP2 NLOOP   RING_H  300

* --------------------------------------------------------------
* Transmitter (carbon mic behavior)
* - MIC_IN drives an internal voltage source
* - Gain is intentionally small (carbon mics are nonlinear+weak)
* --------------------------------------------------------------
E_MIC N_MIC GND  MIC_IN GND  1
G_CARBON TIP_H RING_H VALUE={ V(N_MIC)*0.002 }   ; ~2 mA/V contribution
R_MICLEAK N_MIC GND 1e6

* --------------------------------------------------------------
* Hybrid / balance network (simple but functional)
* --------------------------------------------------------------
R_BAL1 TIP_H   N_BAL  270
C_BAL1 N_BAL   RING_H 220n

* --------------------------------------------------------------
* Receiver (speaker earpiece)
* --------------------------------------------------------------
L_RECV N_RECV SPKR_OUT 280mH
R_RECV N_RECV RING_H   150

* --------------------------------------------------------------
* Ringing detector
* Responds to approx. 20Hz high voltage
* Output is logic-level (0/5V) on node RINGDET
* --------------------------------------------------------------
* Full-wave rectify TIP/RING
E_RINGABS N_RINGRECT GND  TIP RING  -1
B_ABS N_RINGMAG GND V={ abs(V(N_RINGRECT)) }

* Low-pass filter (~5 Hz) – smooth rectified ringing
R_RFILT N_RINGMAG N_RLP 10k
C_RFILT N_RLP GND 3.3u

* Comparator – triggers high when ringing amplitude > 40 Vpeak
E_RINGDET RINGDET GND  N_RLP GND  0.1
R_PULLUP RINGDET GND 50k

* --------------------------------------------------------------
* End of model
* --------------------------------------------------------------
.ends ROTARY_PHONE

