*$
*TLV70950
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TLV70950
* Date: 11NOV2016 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide:   
* Datasheet: SLVS338R–MAY 2001–REVISED APRIL 2015 
*
* Model Version: Final 1.10
*
*****************************************************************************
*
* Updates:
*
* Final 1.10
* <Model updated to new template>
* 1. Model updated to new template.
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
*Model Usage Notes:
*
*1.The following features have been modeled
*   a. Startup Response.
*   b. Transient Responses.
*   c. Current Limit.
*   d. PSRR response.
*   e. Dropout Response.
*2. a. Temperature effects are not been modeled.
*   b. Model Doesn't support inverting configuration since GND pin is internally connected to 0V.
*****************************************************************************
.SUBCKT TLV70950_TRANS  IN OUT GND
R_R2         N222524 VXX  {PSRR*RINP}  
R_R2_FB         0 FB  1meg TC=0,0 
C_U1_C2         U1_N05382 0  1n  
E_U1_ABM10         U1_N08164 0 VALUE { IF(V(UVLO_OK)>0.5,{VREF},0)    }
E_U1_ABM4         U1_N09035 0 VALUE { V(U1_N05348)  
+ * (ABS(V(OUT)) + 1e-6)  
+ / (ABS(V(FB)) + 1e-6)  }
C_U1_C1         U1_N05348 0  {1e-6*SQRT(TTRN)}  
R_U1_R1         GND U1_N05348  1G  
X_U1_U2         IN U1_N352510 U1_N3524503 UVLO_OK COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_U1_V3         U1_N3524503 0 1m
V_U1_V4         U1_N352510 0 2.49
R_U1_R3         U1_N08164 U1_N05348  {3.333e5*SQRT(TTRN)} TC=0,0 
R_U1_R5         U1_N373631 N222524  10 TC=0,0 
R_U1_R2         GND U1_N05382  1G  
E_U1_ABM5         U1_N373631 0 VALUE { MIN(V(U1_N05382),  
+ MAX(V(IN)-V(U1_DROP), 0))   }
E_U1_E1         U1_DROP 0 TABLE { V(LOAD, 0) } 
+ ( (0,1m) (10m,82.5m) (50m,420m) )
C_U1_C3         N222524 0  1n  
R_U1_R4         U1_N09035 U1_N05382  10 TC=0,0 
C_C2         N222524 VXX  {1/(6.28*PSRR*RINP*ZERO*15)}  
X_S1    N916713 0 IN N222604 TLV70950_S1 
E_ABM2         LOAD 0 VALUE { I(V_Vload)    }
R_R1_FB         FB OUT  3.16meg TC=0,0 
C_C3         VYY 0  1n  
C_C4         0 N222604  1.2u  TC=0,0 
E_ABM3         ILIMIT 0 VALUE { IF(V(IN)>=3.5,125m,90m)    }
X_F1    N359447 VZZ N222604 VYY TLV70950_F1 
R_R5         N359447 VYY  {ROUT}  
C_C1         N222604 VXX  {1/(6.28*RINP*POLE)}  
R_R1         VXX N222604  {RINP}  
R_R7         UVLO_OK N916713  20 TC=0,0 
R_R6         N242982 VYY  10 TC=0,0 
C_C5         N916713 0  1n  
E_ABM1         N242982 0 VALUE { {MIN(V(VXX), (V(Vzz)+(V(ILIMIT)*ROUT)))}    }
R_R11         0 GND  1m TC=0,0 
V_Vload         VZZ OUT 0Vdc
.PARAM  psrr=0.6m uvlo=2.2 venb=1.3 ilim=125m pole=12 zero=2k rinp=1e7
+  ttrn=100u rout=10m vref=1.205 ehys=0 uhys=1m
.ENDS TLV70950_TRANS
*$
.subckt TLV70950_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1k Ron=110 Voff=0.5 Von=0.51
.ends TLV70950_S1
*$
.subckt TLV70950_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends TLV70950_F1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$


